US07019012B2
4-[(3-chloro-4-fluorophenyl)amino]-6-nitro-7-((R)-tetrahydrofuran-3-yloxy)quinazoline
13.80 g of potassium tert-butoxide are added batchwise to a solution of 10.80 g of (R)-3-hydroxytetrahydrofuran in 100 ml of N,N-dimethylformamide while cooling with an ice bath. The reaction mixture is stirred for about one hour, then 10.40 g of 4-[(3-chloro-4-fluorophenyl)amino]-6-nitro-7-fluoroquinazoline are added batchwise. The cooling bath is then removed and the deep red reaction mixture is stirred for two hours at ambient temperature. For working up the reaction mixture is poured onto about 500 ml of water and neutralized with 2 N hydrochloric acid. The yellowish precipitate formed is suction filtered and dried at 70° C. in a circulating air drier. Yield: 12.80 g; melting point: 244° C.; mass spectrum (ESI−): m/z=403, 405 [M−H]−.

reactant | potassium tert-butoxide | 13.80 g | CC(C)([O-])C.[K+]
reactant | (R)-3-hydroxytetrahydrofuran | 10.80 g | O[C@H]1COCC1 | C4H8O2
reactant | 4-[(3-chloro-4-fluorophenyl)amino]-6-nitro-7-fluoroquinazoline | 10.40 g | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])F | C14H7ClF2N4O2
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | about 500 ml | O | H2O
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-nitro-7-((R)-tetrahydrofuran-3-yloxy)quinazoline | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)[N+](=O)[O-])O[C@H]1COCC1 | C18H14ClFN4O4
